US08664428B2
3-Chloro-2,6-dimethylphenylacetic acid
At 10-15° C., 9.22 g [130 mmol] of chlorine gas are slowly introduced into a solution of 16.4 g [100 mmol] of 2,6-dimethylphenylacetic acid in 100 ml of glacial acetic acid. The reaction mixture is then stirred at room temperature for 16 hours and then poured into 500 ml of water. The precipitated solid is filtered off with suction, washed with water and dried. This gives 18.8 g of a white solid which, according to GC(sil.), has the following composition: 86.4% of 3-chloro-2,6-dimethylphenylacetic acid (corresponds to a yield of 81.8% of theory), 8.8% of dichloro-2,6-dimethylphenylacetic acid (isomer 1), 3.8% of dichloro-2,6-dimethylphenylacetic acid (isomer 2).

reactant | chlorine | 130 mmol, 9.22 g | ClCl | Cl2
reactant | 2,6-dimethylphenylacetic acid | 100 mmol, 16.4 g | CC1=C(C(=CC=C1)C)CC(=O)O | C10H12O2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2,6-dimethylphenylacetic acid | yield of 81.8% | ClC=1C(=C(C(=CC1)C)CC(=O)O)C | C10H11ClO2
